US03969368
(2-Methyl-1,3-benzodioxol-2-yl)acetohydroxamic acid.
(2-Phenyl-1,3-benzodioxol-2-yl)acetohydroxamic acid (m.p. 120°-21°C. from ethyl acetate can be similarly prepared).

reactant | (2-Phenyl-1,3-benzodioxol-2-yl)acetohydroxamic acid | C1(=CC=CC=C1)C1(OC2=C(O1)C=CC=C2)CC(=O)NO | C15H13NO4
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2-Methyl-1,3-benzodioxol-2-yl)acetohydroxamic acid | CC1(OC2=C(O1)C=CC=C2)CC(=O)NO | C10H11NO4
